US04530929
Preparation of 2-nitro-1,3-benzenediacrylic acid diethyl ester
The 2-nitro-1,3-benzenedialdehyde (3.4 g, 0.019 mole) is dissolved in toluene (60 ml) and carbethoxymethylene triphenylphosphorane (19.2 g, 0.06 mole) is added. The mixture is heated at 60° C. for eight hours, cooled, and concentrated at reduced pressure. Diethyl ether (100 ml) is added and the mixture is filtered. The filtrate is concentrated and purified by flash chromatography over silica (elution with 4:1 hexane:ethyl acetate) to afford after concentration pure 2-nitro-1,3-benzenediacrylic acid diethyl ester, mp 114°-115° C.

reactant | 2-nitro-1,3-benzenedialdehyde | 0.019 mole, 3.4 g | [N+](=O)([O-])C1=C(C=CC=C1C=O)C=O | C8H5NO4
reactant | carbethoxymethylene triphenylphosphorane | 0.06 mole, 19.2 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-nitro-1,3-benzenediacrylic acid diethyl ester | C(C)OC(C=CC1=C(C(=CC=C1)C=CC(=O)OCC)[N+](=O)[O-])=O | C16H17NO6
